US06511974B1
3-Chloro-4-(5H,11H-Pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-benzoic Acid
To a suspension of 3-chloro-4-(5H,11H-pyrrolo-[2,1-c][1,4]-benzodiazepine-10-carbonyl)-benzonitrile (90.72 g) in ethanol was added 10 N sodium hydroxide (1.02 ml) and the mixture heated under reflux for two hours. The solvent was removed in vacuo, the residue dissolved in water, and made acidic with 2 N hydrochloric acid (4.7 ml). The resulting precipitate was extracted with ethyl acetate, and the organic phase dried over anhydrous sodium sulfate. After removing the solvent in vacuo, a foam was triturated with diethyl ether for 18 hours and filtered to give a crude product (0.69 g). The crude product was purified by treatment with activated charcoal in methanol. Crystallization from methanol/ether afforded the title compound as a purified solid (0.29 g), m.p. 198-199° C.; MS (EI), m/z: 366 (M)+.

reactant | 3-chloro-4-(5H,11H-pyrrolo-[2,1-c][1,4]-benzodiazepine-10-carbonyl)-benzonitrile | 90.72 g | ClC=1C=C(C#N)C=CC1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C20H14ClN3O
reactant | sodium hydroxide | 10 N, 1.02 ml | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
product | 3-Chloro-4-(5H,11H-Pyrrolo[2,1-c][1,4]benzodiazepine-10-carbonyl)-benzoic Acid | 0.29 g | ClC=1C=C(C(=O)O)C=CC1C(=O)N1CC=2N(CC3=C1C=CC=C3)C=CC2 | C20H15ClN2O3
